* C:\Github Luis B\Comunications\FM Transmitter\FM Transmitter.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 9
R1 N001 N006 2.2k
R2 N001 N007 10k
R3 N007 0 4.7k
R4 N009 0 1.2k
Q1 N006 N007 N009 0 2N2222
C1 N007 N003 33p
C2 N006 0 33p
C3 0 N003 47p
L1 N006 N003 0.1µ Rser=1m
C4 N009 0 1n
V2 N004 0 SINE(0 0.01 1k)
Q2 N002 N005 N008 0 2N3904
C5 N005 N004 0.1µ
R5 N001 N004 10k
R6 N001 N005 100k
R7 N005 0 100k
R8 N001 N002 10k
R9 N008 0 330
R10 N001 N003 10k
C6 N003 N002 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\kukul\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50us 45us 0.05n startup
.backanno
.end
